Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ G1P0 @ 25w6d re-presents after discharge earlier today with 
right sided abdominal pain. Pt had been admitted with the same 
pain, had MRI that ruled out acute emergent causes of pain but 
revealed a 3mm renal calculi, which was felt to be the etiology 
of this pain. She was tolerating PO dilaudid on discharge, but 
represents tonight because she is unable to tolerate PO meds due 
to nausea. Severity and quality of pain is unchanged. Received 
SC dilaudid with improved relief. No current nausea or vomiting.
 
Past Medical History:
PRENATAL COURSE
___ ___
reports nl ERA, FFS, labs
having GLT in 2wks

GYNECOLOGIC HISTORY
- denies abnl pap or STI
- denies endometriosis, fibroids, or infertility

PAST MEDICAL HISTORY
- interstitial cystitis in the past but no recent flares

SURGICAL HISTORY
- wisdom teeth
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
(on admission)
VITALS: T 99.4, HR 80, RR 20, BP 94/50
GENERAL: appears comfortable
ABDOMEN: soft, tender to palpation in RLQ, right flank.
 No LLQ pain. No rebound/guarding.
EXTREMITIES: no C/C/E
SVE deferred
TOCO: no ctx
FHT: 150/mod var/+accels/no decels
 (some areas of discontinuity), AGA
 
Pertinent Results:
___ WBC-7.8 RBC-3.66 Hgb-10.3 Hct-31.3 MCV-85 Plt-309
___ WBC-10.8 RBC-3.36 Hgb-9.5 Hct-28.6 MCV-85 Plt-278
___ WBC-6.0 RBC-2.82 Hgb-7.9 Hct-24.1 MCV-85 Plt-227

___ Glucose-89 UreaN-10 Creat-0.6 Na-137 K-4.0 Cl-105 
HCO3-22
___ ALT-7 AST-13 AlkPhos-70 TotBili-0.2 Lipase-37 
Albumin-3.6

___ URINE Blood-NEG Nitrite-NEG Protein-NEG Glucose-NEG 
Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG

URINE CULTURE (Final ___: NO GROWTH
 
Brief Hospital Course:
___ y/o G1 readmitted at 25+5 weeks with right sided 
abdominal/flank pain; recently diagnosed with right 
nephrolithiasis.
.
Ms ___ was readmitted for pain control and antiemetics. She 
was afebrile and with minimal tenderness, mostly in right upper 
quadrant/flank. She had no signs or symptoms of preterm labor. 
She was continued on IV fluids and strained her urine. She was 
tolerating a regular diet. By hospital day #3, her nausea and 
pain was well controlled with po medication and she was 
discharged home. Fetal testing was reassuring during this 
admission. She will have close outpatient followup.
 
Medications on Admission:
prenatal vitamins
 
Discharge Medications:
1. Ondansetron 4 mg Tablet, Rapid Dissolve Sig: ___ Tablet, 
Rapid Dissolves PO every eight (8) hours as needed for nausea.
Disp:*30 Tablet, Rapid Dissolve(s)* Refills:*0*
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pregnancy at 26+1 weeks gestation
nephrolithiasis
 
Discharge Condition:
stable
 
Discharge Instructions:
stay well hydrated. Take pain medication and anti-nausea 
medication as needed. call your doctor with worsening of pain 
not relieved by medication, fevers >100.4, persistent 
nausea/vomiting, leaking of fluid, vaginal bleeding, regular or 
painful contractions, or decreased fetal movement.

Continue to strain all urine.  Save any stones passed.
 
Followup Instructions:
___